US06051577
3-[4-Amino-5-(3-methoxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl1-pyrrolidine-1-carboxylic acid tert-butyl ester
Examples 63 and 64 are prepared analogously to Example 20/21 starting from 5-(4-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl-amine or 5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl-amine and 3-(toluene-4-sulfonylmethyl)-pyrrolidine-carboxylic acid tert-butyl ester.

reactant | 5-(4-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CNC=2N=CN=C(C21)N | C19H16N4O
reactant | 5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl-amine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CNC=2N=CN=C(C21)N | C19H16N4O
reactant | 3-(toluene-4-sulfonylmethyl)-pyrrolidine-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)CS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO4S
product | 3-[4-Amino-5-(3-methoxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl1-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OC | C22H27N5O3
